US08609705B2
While a mixture of 1.16 g of 3-(tert-butoxycarbonylamino)pyridine and 25 ml of tetrahydrofuran was cooled in a dry ice-acetone bath, 8.5 ml of 1.65 M hexane solution of n-butyllithium was added so that the temperature of the reaction mixture did not exceed −60° C. The reaction mixture was stirred for 15 minutes. Cooling was stopped. Then, the reaction mixture was stirred until the temperature became 0° C. The reaction mixture was cooled in a dry ice-acetone bath again. After injection of carbon dioxide, cooling was stopped, and the reaction mixture was stirred at room temperature for two hours. After water was added, most of tetrahydrofuran and hexane was removed by concentration under reduced pressure. The residue was ice-cooled and 3N hydrochloric acid was added so as to adjust pH to about 3. Extraction with a mixture solvent (4:1) of ethyl acetate to tetrahydrofuran was carried out several times. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give 0.53 g of 3-(tert-butoxycarbonyl amino)isonicotinic acid.

reactant | 3-(tert-butoxycarbonylamino)pyridine | 1.16 g | C(C)(C)(C)OC(=O)NC=1C=NC=CC1 | C10H14N2O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | hexane | 1.65 M, 8.5 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 3-(tert-butoxycarbonyl amino)isonicotinic acid | 0.53 g | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C=CN=C1 | C11H14N2O4
